US05824691
To a mixture of methyl 3-((E)-2-carboxyethenyl)-5-(pyrrol-1-yl)benzoate (1.9 g) and nickel(II) chloride in methanol (40 ml) was added portionwise sodium borohydride (1.24 g). After stirring for 7 hours at room temperature, the reaction mixture was filtered and poured into water, followed by acidification of the solution to pH 2. The resulting precipitate was collected by filtration and washed with water to give methyl 3-(2-carboxyethyl)-5-(pyrrol-1-yl)benzoate (1.72 g).

reactant | methyl 3-((E)-2-carboxyethenyl)-5-(pyrrol-1-yl)benzoate | 1.9 g | C(=O)(O)/C=C/C=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H13NO4
reactant | sodium borohydride | 1.24 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
catalyst | nickel(II) chloride | [Ni](Cl)Cl
product | methyl 3-(2-carboxyethyl)-5-(pyrrol-1-yl)benzoate | 1.72 g | C(=O)(O)CCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H15NO4
